US05877317
1-[2-(Isochroman-1-yl)-2-methylpropyl]-4-(4-methoxyphenyl)piperazine dihydrochloride (LXXIV)
Triethylamine (1 ml) is added dropwise to a mixture of 2-(isochroman-1-yl)-2-methylpropionic acid (LXXII, 0.502 g, 2.3 mmol), 1-(4-methoxyphenyl)piperazine dihydrochloride (XI, 0.668 g, 2.5 mmol), diethylcyanophosphonate (0.44 ml, 2.9 mmol), DMF (2.4 ml) and dichloromethane (2.4 ml). After the mixture had stirred for 2.5 hr, aqueous saturated sodium bicarbonate is added and the mixture is stirred for 70 min. The mixture is then partitioned between dichloromethane and saline, the phases separated and the organic phase is dried over magnesium sulfate and concentrated. The residue is chromatographed on silica gel eluting with methanol/dichloromethane (1/99). The appropriate fractions are pooled and concentrated to give a residue. Ethyl acetate and hexane are added and the solids are collected and dried to give 2-(isochroman-1-yl)-1-[4-(4-methoxyphenyl)piperazin-1-yl]-2-methylpropan-1-one (LXXIII), mp 119.5°-121°. Borane-methyl sulfide (1.1 ml) is added to a mixture of 2-(isochroman-1-yl)-1-[4-(4-methoxyphenyl)piperazin-1-yl]-2-methylpropan-1-one (LXXIII, 0.397 g, 1.0 mmol) and THF (98 ml). The mixture is heated for 3.5 hr at 76° and then cooled in an ice/water bath. Hydrochloric acid (10%, 1.3 ml) is added, followed by methanol. The mixture is concentrated and methanol is again added and removed under reduced pressure. The methanol addition/removal is repeated twice more and the resulting material is partitioned between dichloromethane and saturated sodium bicarbonate. The combined organic phases are dried over magnesium sulfate, concentrated, and the residue chromatographed on silica gel eluting with ethyl acetate/hexane (5/95) followed by ethyl acetate/hexane (10/90). The appropriate fractions are pooled and concentrated to give the free base of the title compound.

reactant | Borane methyl sulfide | 1.1 ml | B.CSC
reactant | 2-(isochroman-1-yl)-1-[4-(4-methoxyphenyl)piperazin-1-yl]-2-methylpropan-1-one | 1.0 mmol, 0.397 g | C1(OCCC2=CC=CC=C12)C(C(=O)N1CCN(CC1)C1=CC=C(C=C1)OC)(C)C | C24H30N2O3
reactant | THF | 98 ml | C1CCOC1 | C4H8O
reactant | Hydrochloric acid | 1.3 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-[2-(Isochroman-1-yl)-2-methylpropyl]-4-(4-methoxyphenyl)piperazine dihydrochloride | Cl.Cl.C1(OCCC2=CC=CC=C12)C(CN1CCN(CC1)C1=CC=C(C=C1)OC)(C)C | InChI=1S/C24H32N2O2.2ClH/c1-24(2,23-22-7-5-4-6-19(22)12-17-28-23)18-25-13-15-26(16-14-25)20-8-10-21(27-3)11-9-20;;/h4-11,23H,12-18H2,1-3H3;2*1H
